US05302720
Reaction of 2-amino-5-methylbiphenyl (7 g) with thiophosgene (5.7 g) in a mixture of dioxan (20 ml) and water (50 ml) at 0°-5° C. for 30 minutes and at ambient temperature for 1 hour gave 5-methyl-2-biphenylyl isothiocyanate as a yellow oil.

reactant | 2-amino-5-methylbiphenyl | 7 g | NC1=C(C=C(C=C1)C)C1=CC=CC=C1 | C13H13N
reactant | thiophosgene | 5.7 g | C(=S)(Cl)Cl | CCl2S
solvent | dioxan | 20 ml | O1CCOCC1 | C4H8O2
solvent | water | 50 ml | O | H2O
product | 5-methyl-2-biphenylyl isothiocyanate | CC1=CC=C(C(=C1)C1=CC=CC=C1)N=C=S | C14H11NS
